US04970218
N-(3-Fluoro-4-pyridinyl)-1H-indol-1-amine hydrochloride
The title compound was prepared from 1H-indol-1-amine and 4-chloro-3-fluoropyridine hydrochloride in isopropanol at 90° C. for 4 hours in substantially the same manner as in Example 1, m.p.>250° C.

reactant | 1H-indol-1-amine | N1(C=CC2=CC=CC=C12)N | C8H8N2
reactant | 4-chloro-3-fluoropyridine hydrochloride | Cl.ClC1=C(C=NC=C1)F
solvent | isopropanol | C(C)(C)O | C3H8O
product | N-(3-Fluoro-4-pyridinyl)-1H-indol-1-amine hydrochloride | Cl.FC=1C=NC=CC1NN1C=CC2=CC=CC=C12 | InChI=1S/C13H10FN3.ClH/c14-11-9-15-7-5-12(11)16-17-8-6-10-3-1-2-4-13(10)17;/h1-9H,(H,15,16);1H
